US06174889B1
N6, N6-Dimethyl-N4-(1-pyridin-2-ylmethyl-1H-indazol-5-yl)-pyrido[3,4-d]pyrimidine-4,6-diamine hydrochloride
Prepared according to Procedure A from 1-(2-Pyridylmethyl)indazol-5-ylamine and 4-chloro-6-(N,N-dimethylamino)-pyrido[3,4-d]pyrimidine; δH[2H6]DMSO 11.75(1H,s), 9.92(1H,s), 8.62(1H,s), 8.55(1H,d), 8.24(1H,s), 8.14(1H,s), 7.75(4H,m), 7.33(1H,m), 7.08(1H,d), 5.82(2H,s), 3.20(6H,s); m/z (M+1+) 397.

reactant | 1-(2-Pyridylmethyl)indazol-5-ylamine | N1=C(C=CC=C1)CN1N=CC2=CC(=CC=C12)N | C13H12N4
reactant | 4-chloro-6-(N,N-dimethylamino)-pyrido[3,4-d]pyrimidine | ClC=1C2=C(N=CN1)C=NC(=C2)N(C)C | C9H9ClN4
product | N6, N6-Dimethyl-N4-(1-pyridin-2-ylmethyl-1H-indazol-5-yl)-pyrido[3,4-d]pyrimidine-4,6-diamine hydrochloride | Cl.CN(C1=CC2=C(N=CN=C2NC=2C=C3C=NN(C3=CC2)CC2=NC=CC=C2)C=N1)C | InChI=1S/C22H20N8.ClH/c1-29(2)21-10-18-19(12-24-21)25-14-26-22(18)28-16-6-7-20-15(9-16)11-27-30(20)13-17-5-3-4-8-23-17;/h3-12,14H,13H2,1-2H3,(H,25,26,28);1H
